US05716971
To a solution of 2,4-dibromo-1-methoxymethoxybenzene (3.50 g) in diethyl ether (50 ml) was added, at -78° C. under argon atmosphere, a 1.6M n-butyl lithium hexane solution (8.1 ml). The mixture was stirred for 20 minutes at the same temperature, to which was added a solution of 3-fluoro-2-formyl-pyridine (1.48 g) in THF (10 ml), followed by stirring for one hour at temperatures ranging from -78° to 60° C. The reaction mixture was poured into a saturated aqueous saline solution, followed by extraction with ethyl acetate. The extract solution was washed with a saturated aqueous saline solution, dried (anhydrous sodium sulfate) and concentrated. The concentrate was purified by means of a silica gel column chromatography (eluent: ethyl acetate/hexane) to give 2-(5-bromo-α-hydroxy-2-methoxymethoxybenzyl)-3-fluoropyridine (1.64 g) (Compound D-6). The physical properties and spectrum data are shown in Table 13 and Table 14.

reactant | 2,4-dibromo-1-methoxymethoxybenzene | 3.50 g | BrC1=C(C=CC(=C1)Br)OCOC | C8H8Br2O2
reactant | n-butyl lithium hexane | 1.6M, 8.1 ml | CCCCCC.C(CCC)[Li]
reactant | 3-fluoro-2-formyl-pyridine | 1.48 g | FC=1C(=NC=CC1)C=O | C6H4FNO
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-(5-bromo-α-hydroxy-2-methoxymethoxybenzyl)-3-fluoropyridine | 1.64 g | BrC=1C=CC(=C(C(O)C2=NC=CC=C2F)C1)OCOC | C14H13BrFNO3
